US08557809B2
Step H: Preparation of tert-butyl 4-(2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperazine-1-carboxylate
2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl trifluoromethane sulfonate (0.027 g, 0.0576 mmol), tert-butyl piperazine-1-carboxylate (0.0215 g, 0.115 mmol), Cs2CO3 (0.0282 g, 0.0865 mmol), Pd2 dba3 (0.00528 g, 0.00576 mmol) and Binap-rac (0.00718 g, 0.0115 mmol) were combined in toluene (0.5 mL) in a sealed vial. The reaction mixture was stirred at 100° C. for 16 hours then concentrated under reduced pressure. The resulting residue was diluted with EtOAc, washed with aqueous saturated NaHCO3 and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to an orange solid. Purification via flash column chromatography (40:1 DCM/MeOH followed by 20:1 DCM/MeOH) provided 22 mg (76%) of desired product.

reactant | 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl trifluoromethane sulfonate | 0.0576 mmol, 0.027 g | FC(S(=O)(=O)OC=1C=CC=C2C=CC(=NC12)C1=NN=C2N1C=CC(=C2)OCCOC)(F)F | C19H15F3N4O5S
reactant | tert-butyl piperazine-1-carboxylate | 0.115 mmol, 0.0215 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Cs2CO3 | 0.0865 mmol, 0.0282 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.00576 mmol, 0.00528 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperazine-1-carboxylate | 22 mg, 76% | COCCOC1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C27H32N6O4
